US07678795B2
(1S,8R)-1,11,11-Trimethyl-5-(4-methyl-2-phenyl-thiazol-5-yl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
orange solid. MS (EI): 361.0 (M+). Prepared from (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione, [2-(4-Methyl-2-phenyl-thiazol-5-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione | C[C@]12C(C([C@H](CC1)C2(C)C)=O)=O | C10H14O2
reactant | [2-(4-Methyl-2-phenyl-thiazol-5-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=C(N=C(S1)C1=CC=CC=C1)C | C14H16NO4PS
reactant | hydrazine monohydrate | O.NN
product | (1S,8R)-1,11,11-Trimethyl-5-(4-methyl-2-phenyl-thiazol-5-yl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | C[C@]12C3=NN=C(C=C3[C@H](CC1)C2(C)C)C2=C(N=C(S2)C2=CC=CC=C2)C | C22H23N3S
